US08835431B2
a. 5-tert-Butyl-2-{3-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-2H-pyrazol-3-ylamine (Intermediate 4a)
DIAD (847 μL, 4.32 mmol) was added slowly to a solution of 3-(5-amino-3-tert-butyl-1H-pyrazol-1-yl)phenol (for reference procedure see US 2006/35922, which is incorporated herein by reference in its entirety; 500 mg, 2.16 mmol), 2-(tetrahydro-pyran-2-yloxy)-ethanol (439 μL, 3.25 mmol), and triphenylphosphine (1.13 g, 4.32 mmol) in THF (10.0 mL) and stirred for 72 h. The reaction mixture was partitioned between EtOAc (75 mL) and H2O (75 mL), and the aqueous layer extracted with EtOAc (3×). The combined organic layers were dried (MgSO4), filtered and evaporated in vacuo. Purification by FCC, using 5-60% EtOAc in cyclohexane, gave semi-pure title compound (1.26 g). This was used in the next reaction without further purification. LCMS (Method 4): Rt 2.77, m/z 360 [MH+].

reactant | DIAD | 4.32 mmol, 847 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 3-(5-amino-3-tert-butyl-1H-pyrazol-1-yl)phenol | NC1=CC(=NN1C=1C=C(C=CC1)O)C(C)(C)C | C13H17N3O
reactant | 2-(tetrahydro-pyran-2-yloxy)-ethanol | 3.25 mmol, 439 μL | O1C(CCCC1)OCCO | C7H14O3
reactant | triphenylphosphine | 4.32 mmol, 1.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | 5-tert-Butyl-2-{3-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-2H-pyrazol-3-ylamine | 1.26 g | C(C)(C)(C)C=1C=C(N(N1)C1=CC(=CC=C1)OCCOC1OCCCC1)N | C20H29N3O3
